US06008230
A mixture of 1,4-dihydro-8-nitro-4-oxoquinoline (10 g) and 1,3,5-trioxane (23.7 g) in dioxane (100 ml) and conc. hydrochloric acid (200 ml) was stirred for 3.5 hours at 90° C. and allowed to stand to ambient temperature. To the mixture was added ice water (700 g), and the mixture was stirred for 1 hour. The resulting precipitates were collected by filtration and washed with cold water to give 3-chloromethyl-1,4-dihydro-8-nitro-4-oxoquinoline (6.5 g).

reactant | 1,4-dihydro-8-nitro-4-oxoquinoline | 10 g | [N+](=O)([O-])C=1C=CC=C2C(C=CNC12)=O | C9H6N2O3
reactant | 1,3,5-trioxane | 23.7 g | O1COCOC1 | C3H6O3
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-chloromethyl-1,4-dihydro-8-nitro-4-oxoquinoline | 6.5 g | ClCC1=CNC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C10H7ClN2O3
